US08227462B2
4-Methyl-5-[2-(2-methyl-cyclopropyl)-pyrimidin-4-yl]-thiazol-2-ylamine
Powdered sodium hydroxide (300 mg) is added to a solution of N′-[5-(3-dimethylamino-acryloyl)-4-methyl-thiazol-2-yl]-N,N-dimethyl-formamidine (1 g, prepared as described by S. Wang et al J. Med. Chem. 2004, 47, 1662-1675.) and cis/trans 2-methyl-cyclopropanecarboxamidine hydrochloride (0.61 g, prepared as described in WO 03/087064) in 2-methoxyethanol (3.8 ml) and the mixture heated at 125° C. for 1 hour with stirring. The reaction mixture is cooled, filtered, washing with water to give the title compound. MS: M+H 247 and M−H 245.

reactant | sodium hydroxide | 300 mg | [OH-].[Na+]
reactant | N′-[5-(3-dimethylamino-acryloyl)-4-methyl-thiazol-2-yl]-N,N-dimethyl-formamidine | 1 g | CN(C=CC(=O)C1=C(N=C(S1)N=CN(C)C)C)C | C12H18N4OS
reactant | trans 2-methyl-cyclopropanecarboxamidine hydrochloride | 0.61 g | Cl.C[C@H]1[C@@H](C1)C(=N)N
solvent | 2-methoxyethanol | 3.8 ml | COCCO | C3H8O2
product | 4-Methyl-5-[2-(2-methyl-cyclopropyl)-pyrimidin-4-yl]-thiazol-2-ylamine | CC=1N=C(SC1C1=NC(=NC=C1)C1C(C1)C)N | C12H14N4S
